US07241791B2
Step 2: 4-[1-cyclopentyl-7-(trifluoromethyl)-1H-indazol-3-yl]benzene-1,3-diol
Prepared according to Method D step C from 1-cyclopentyl-3-(2,4-dimethoxyphenyl)-7-(trifluoromethyl)-1H-indazole (0.465 g, 1.2 mmol), boron tribromide (0.67 mL, 7.1 mmol) and 1.0 mL of cyclohexene to give the product (0.424 g) as an off-white solid.

reactant | 1-cyclopentyl-3-(2,4-dimethoxyphenyl)-7-(trifluoromethyl)-1H-indazole | 1.2 mmol, 0.465 g | C1(CCCC1)N1N=C(C2=CC=CC(=C12)C(F)(F)F)C1=C(C=C(C=C1)OC)OC | C21H21F3N2O2
reactant | boron tribromide | 7.1 mmol, 0.67 mL | B(Br)(Br)Br | BBr3
reactant | cyclohexene | 1.0 mL | C1=CCCCC1 | C6H10
product | 4-[1-cyclopentyl-7-(trifluoromethyl)-1H-indazol-3-yl]benzene-1,3-diol | 0.424 g | C1(CCCC1)N1N=C(C2=CC=CC(=C12)C(F)(F)F)C1=C(C=C(C=C1)O)O | C19H17F3N2O2
